US04992474
1-[2-[(6-Bromohexyl)oxy]ethyl]-3-chlorobenzene
(4.12 g), T.l.c. (ER- HX 1:79) Rf 0.16, from 1,6-dibromohexane (11.71 g) and 3-chlorobenzeneethanol (2.5 g).

reactant | 1,6-dibromohexane | 11.71 g | BrCCCCCCBr | C6H12Br2
reactant | 3-chlorobenzeneethanol | 2.5 g | ClC=1C=C(C=CC1)CCO | C8H9ClO
product | 1-[2-[(6-Bromohexyl)oxy]ethyl]-3-chlorobenzene | BrCCCCCCOCCC1=CC(=CC=C1)Cl | C14H20BrClO
